US06270533B1
a) Preparation of N-[2-(3-chloropropoxy)-4-nitrophenyl]acetamide
A mixture of 98.1 g (0.5 mol) of N-(2-hydroxy-4-nitrophenyl)acetamide and 69.2 g (0.5 mol) of potassium carbonate in 500 ml of dimethylformamide was heated to 50° C. with stirring, 113.0 g (1 mol) of 1,3-dichloropropane were then added and heating at 50° C. was continued for 1 hour. The reaction mixture was poured into 4 litres of ice-cold water and the crystalline precipitate was filtered off, reimpasted in water and then in isopropyl alcohol and dried under vacuum at 40° C. over phosphorus pentoxide.

reactant | N-(2-hydroxy-4-nitrophenyl)acetamide | 0.5 mol, 98.1 g | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(C)=O | C8H8N2O4
reactant | potassium carbonate | 0.5 mol, 69.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dichloropropane | 1 mol, 113.0 g | ClCCCCl | C3H6Cl2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-chloropropoxy)-4-nitrophenyl]acetamide | ClCCCOC1=C(C=CC(=C1)[N+](=O)[O-])NC(C)=O | C11H13ClN2O4
